US04182866
To a suspension of 1.5 g of phosphorous pentachloride in 13 ml of dichloromethane is added 1.2 g of pyridine in 13 ml of dichloromethane under stirring at -40° C. To the resulting mixture is added 1.6 g of benzhydryl 7-thienylacetamido-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate in 32 ml of dichloromethane at -40° C. After stirring for one hour at 0° C., to the reaction mixture is added 6 g of n-butanol under stirring at -40° C. After working up as described in Example 26, the obtained residue is chromatographed on a column of silica gel [eluting with ethyl acetate-dichloromethane (1:1)] to give 0.522 g of benzhydryl 7-amino-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate as pale yellow needles.

reactant | phosphorous pentachloride | 1.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 1.2 g | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 7-thienylacetamido-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 1.6 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H25N5O5S3
reactant | n-butanol | 6 g | C(CCC)O | C4H10O
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
product | benzhydryl 7-amino-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.522 g | NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H21N5O4S2
